US06211215B1
A solution of ethyl 3-benzyloxycinnamate in tetrahydrofuran (300 ml) was added dropwise to a suspension of lithium aluminum hydride in tetrahydrofuran (300 ml) at 0° C. and then stirred for 2 hours. To the reaction mixture was added carefully water and the insoluble material was filtered off. The filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with 1N-hydrochloric acid and water, dried (MgSO4), and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:4, v/v), 3-(3-benzyloxyphenyl)propanol (52.7 g, 62%) was obtained. Oily substance.

reactant | ethyl 3-benzyloxycinnamate | C(C1=CC=CC=C1)OC=1C=C(C=CC(=O)OCC)C=CC1 | C18H18O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(3-benzyloxyphenyl)propanol | 52.7 g, 62% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCO | C16H18O2
